US03947473
To a solution of 0.5 g. of (±)-2-(2-acetoxyethyl)-6-benzyloxy-2,5,7,8-tetramethylchroman in 15 ml. of methanol was added a solution of 358 mg. of potassium carbonate in 1.5 ml. of water. The mixture was heated at reflux under N2 for 40 minutes, cooled, poured into water and extracted with methylene chloride. The methylene chloride solutions were washed with brine, dried over magnesium sulfate and stripped of solvent to give (±)-6-benzyloxy-2-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman as an oil.

reactant | (±)-2-(2-acetoxyethyl)-6-benzyloxy-2,5,7,8-tetramethylchroman | C(C)(=O)OCCC1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C | C24H30O4
reactant | methanol | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | (±)-6-benzyloxy-2-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)CCO)C | C22H28O3
